US08476434B2
Synthesis of 3-Hydroxy-4-methyl-N-(2-morpholin-4-yl-5-trifluoromethyl-phenyl)-benzamide
3-Hydroxy-4-methylbenzoic acid (530 mg, 3.5 mmol), 3-amino-4-(4-morpholino)benzotrifluoride (890 mg, 3.6 mmol), and DMAP (150 mg, 1.3 mmol) were suspended in 20 mL dry toluene in a 2-neck flask with an attached Dean-Stark trap under N2. The mixture was stirred in a 130° C. oil bath and brought to a boil before PCl3 (0.18 mL, 2 mmol) was added dropwise by glass/Teflon syringe over 15 minutes. Heating was continued an additional 45 minutes. After cooling, the mixture was diluted with brine and ethyl acetate, and acidified with 1 N HCl. After extraction, the organic layer was dried with Na2SO4, concentrated, and purified by flash chromatography (2% MeOH in CH2Cl2). The isolated material was packed into a small filtration apparatus and rinsed with a small amount of CH2Cl2 to provide the title compound as a white solid. 1H NMR (Varian, 400 MHz, DMSO-d6) d: 9.83 (s, 1H), 9.50 (s, 1H), 8.45 (s, 1H), 7.48 (m, 1H), 7.43 (m, 1H), 7.34 (s, 1H), 7.31 (m, 1H), 7.25 (m, 1H), 3.78 (m, 4H), 2.90 (m, 4H), 2.18 (s, 3H).

reactant | 3-Hydroxy-4-methylbenzoic acid | 3.5 mmol, 530 mg | OC=1C=C(C(=O)O)C=CC1C | C8H8O3
reactant | 3-amino-4-(4-morpholino)benzotrifluoride | 3.6 mmol, 890 mg | C1COCCN1C2=C(C=C(C=C2)C(F)(F)F)N | C11H13F3N2O
reactant | PCl3 | 2 mmol, 0.18 mL | P(Cl)(Cl)Cl | Cl3P
reactant | HCl | 1 N | Cl | ClH
catalyst | DMAP | 1.3 mmol, 150 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | brine | [Cl-].[Na+].O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Hydroxy-4-methyl-N-(2-morpholin-4-yl-5-trifluoromethyl-phenyl)-benzamide | OC=1C=C(C(=O)NC2=C(C=CC(=C2)C(F)(F)F)N2CCOCC2)C=CC1C | C19H19F3N2O3
